US07767651B2
3) Synthesis of 3,4,5-tris-benzyloxy-6-benzyloxymethyl-2-(2,5-bis(trityloxymethyl)phenyl)tetrahydropyran-2-ol
Under a nitrogen stream, to a solution of 2-bromo-1,4-bis(trityloxymethyl)benzene (255.3 mg, 0.36 mmol) in toluene (1.5 ml), a cyclohexane solution of sec-butyllithium (0.99 M, 367 μl, 0.36 mmol) was added dropwise at room temperature and the solution was stirred for 30 minutes. This solution was added dropwise at −78° C. to a solution of 3,4,5-trisbenzyloxy-6-(benzyloxymethyl)tetrahydropyran-2-one (140 mg, 0.26 mmol) in toluene (1.5 ml) and the mixture was stirred at the same temperature for 30 minutes. After addition of water, the reaction mixture was extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate, and then evaporated under reduced pressure to remove the solvent. The resulting residue was purified by silica gel column chromatography (developing solution=ethyl acetate:n-hexane (1:5)) to give the titled compound (242 mg, 80%).

reactant | 2-bromo-1,4-bis(trityloxymethyl)benzene | 0.36 mmol, 255.3 mg | BrC1=C(C=CC(=C1)COC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)COC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C46H37BrO2
reactant | cyclohexane | C1CCCCC1 | C6H12
reactant | sec-butyllithium | 0.36 mmol, 0.99 M, 367 μl | C(C)(CC)[Li]
reactant | 3,4,5-trisbenzyloxy-6-(benzyloxymethyl)tetrahydropyran-2-one | 0.26 mmol, 140 mg | C(C1=CC=CC=C1)OC1C(OC(C(C1OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1)=O | C34H34O6
solvent | toluene | 1.5 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 1.5 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | 3,4,5-tris-benzyloxy-6-benzyloxymethyl-2-(2,5-bis(trityloxymethyl)phenyl)tetrahydropyran-2-ol | 242 mg, 80% | C(C1=CC=CC=C1)OC1C(OC(C(C1OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1)(O)C1=C(C=CC(=C1)COC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)COC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C80H72O8
